US07790756B2
To a solution of phenethylamine (60.5 g, 0.5 mol) and Na2CO3 (63.6 g, 0.6 mol) in EtOAc/H 0 (800 mL, 4:1) was added ethyl chloroformate, dropwise, (65.1 g, 0.6 mol) at 0° C. during a period of 1 h. The mixture was warmed to RT and stirred for an additional 1 h. The organic phase was separated and the aqueous layer was extracted with EtOAc. The combined organic phases were washed with H2O and brine, dried (Na2SO4), concentrated in vacuo and purified by flash chromatography to afford ethyl phenethylcarbamate (90.2 g). 1H NMR (400 MHz, CDCl3) δ 7.32-7.18 (m, 5H), 4.73 (brs, 1H), 4.14-4.08 (q, J=6.8 Hz, 2H), 3.44-3.43 (m, 2H), 2.83-2.79 (t, J=6.8 Hz, 2H), 1.26-1.21 (t, J=6.8 Hz, 3H).

reactant | phenethylamine | 0.5 mol, 60.5 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | Na2CO3 | 0.6 mol, 63.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl phenethylcarbamate | 90.2 g | C(CC1=CC=CC=C1)NC(OCC)=O | C11H15NO2
